US09233979B2
To an 8 mL vial charged with (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (20 mg, 0.037 mmol), cyclopropanecarboxylic acid (4.79 mg, 0.056 mmol), and HATU (21.18 mg, 0.056 mmol) was added DIEA (0.013 ml, 0.074 mmol) and DMA (1 ml). The vial was capped and the contents heated to 60° C. and stirred for 16 h. The reaction mixture was concentrated to afford crude (R)—N-(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxamide which was taken forward without purification. MS ESI calc'd. For C38H35N6O2 [M+H]+ 607. found 607.

reactant | (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.037 mmol, 20 mg | NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H30N6O
reactant | cyclopropanecarboxylic acid | 0.056 mmol, 4.79 mg | C1(CC1)C(=O)O | C4H6O2
reactant | HATU | 0.056 mmol, 21.18 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.074 mmol, 0.013 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 1 ml | CC(=O)N(C)C | C4H9NO
product | (R)—N-(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxamide | C1(=CC=CC=C1)[C@@H](C)NC(NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(=O)C2CC2)=O | C38H34N6O2
